US08957203B2
Preparation of 1-fluoro-3,6-dimethoxyisoquinoline
To a solution of 1-chloro-3,6-dimethoxyisoquinoline (300 mg, 1.341 mmol) in DMSO (5 mL) was added CsF (408 mg, 2.68 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with Ethylacteate and washed with water, and brine. The organic phase was collected, dried over MgSO4, and concentrated under vacuum to give the crude product 1-fluoro-3,6-dimethoxyisoquinoline (250 mg, 90% yield) as a reddish brown solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 7.93 (d, J=9.0 Hz, 1H), 7.03 (dd, J=9.3, 2.3 Hz, 1H), 6.95 (t, J=1.9 Hz, 1H), 6.75 (s, 1H), 4.01-3.96 (m, 3H), 3.96-3.90 (m, 3H). MS: MS m/z 208.07(M++1).

reactant | 1-chloro-3,6-dimethoxyisoquinoline | 1.341 mmol, 300 mg | ClC1=NC(=CC2=CC(=CC=C12)OC)OC | C11H10ClNO2
reactant | CsF | 2.68 mmol, 408 mg | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-fluoro-3,6-dimethoxyisoquinoline | FC1=NC(=CC2=CC(=CC=C12)OC)OC | C11H10FNO2
